US06093714
A 1.0 M solution of diisobutylaluminum hydride in tetrahydrofuran (19.7 ml, 19.7 mmol) was added to a solution of methyl 3,4,5-trimethoxy-2-nitrobenzoate (5.0 g, 18.5 mmol) in toluene (100 ml) at -50° C. under an argon atmosphere, and the mixture was stirred for 30 min. Methanol (10 ml) was added thereto, and the temperature of the mixture was raised to room temperature. Water was added to the mixture, followed by extraction twice with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=2:1) to give 3,4,5-trimethoxy-2-nitrobenzyl alcohol (1.01 g, 23%) as light yellow powder.

reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | tetrahydrofuran | 19.7 mmol, 19.7 ml | O1CCCC1 | C4H8O
reactant | methyl 3,4,5-trimethoxy-2-nitrobenzoate | 18.5 mmol, 5.0 g | COC=1C(=C(C(=O)OC)C=C(C1OC)OC)[N+](=O)[O-] | C11H13NO7
reactant | Methanol | 10 ml | CO | CH4O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | Water | O | H2O
product | 3,4,5-trimethoxy-2-nitrobenzyl alcohol | 1.01 g, 23% | COC=1C(=C(CO)C=C(C1OC)OC)[N+](=O)[O-] | C10H13NO6
